US05130483
Separately, 2.33 g of 5-(4'-hydroxy-3'-methoxyphenyl)pentadienoic acid is suspended in 50 ml of methylene chloride under an argon atmosphere. To the suspension cooled to -10° C. are added 2.95 ml of triethylamine and 2.03 ml of ethyl chlorocarbonate. To the mixture, after stirred for 30 min., is added a suspension of the geranylamine-hydrazide mixture in methylene chloride. The resulting mixture is stirred at -10° C. to 0° C. for 4 hours. The reaction mixture is filtered, and precipitates are washed with methylene chloride. Combined filtrate and washing are washed successively with water and saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent is distilled off under reduced pressure, and the residue is subjected to column chromatography on silica gel. From the fraction eluted with chloroform is obtained 2.61 g of 5-(4'-ethoxycarbonyloxy-3'methoxyphenyl)pentadienoic acid geranylamide.

reactant | 5-(4'-hydroxy-3'-methoxyphenyl)pentadienoic acid | 2.33 g | OC1=C(C=C(C=C1)C=CC=CC(=O)O)OC | C12H12O4
reactant | triethylamine | 2.95 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.03 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-(4'-ethoxycarbonyloxy-3'methoxyphenyl)pentadienoic acid geranylamide | 2.61 g | C(\C=C(/C)\CCC=C(C)C)NC(C=CC=CC1=CC(=C(C=C1)OC(=O)OCC)OC)=O | C25H33NO5
